US07875728B2
Preparation of 5-(4-morpholin-4-ylbutyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine
The powder of 7-morpholin-4-yl-3-oxo-2-(phenylhydrazono)-heptanenitrile (510 mg, 1.6 mmole) and hydrazine hydrate (3.2 mmole) were suspended in 20 mL of ether:THF (1:1) and stirred at ambient temperature overnight. Water was added to the reaction and the mixture was extracted with ethyl acetate. The organic extracts were washed with saline. The volume of the organic solution was reduced which resulted in the precipitation of a yellow solid. The solution was filtered to yield 270 mg (51%) of the title compound as a yellow powder. MS (m/z, ES+): 329 (M+1, 100%); 1H NMR (ppm, 300 MHz, DMSO-d6) δ 11.58 (br s, 1H), 7.66 (m, 2H), 7.44 (m, 2H), 7.30 (m, 1H), 6.98 (br s, 2H), 3.51 (m, 4H), 2.79 (m, 2H), 2.20-2.33 (m, 5H), 1.72 (m, 2H), 1.47 (m, 2H).

reactant | 7-morpholin-4-yl-3-oxo-2-(phenylhydrazono)-heptanenitrile | 1.6 mmole, 510 mg | N1(CCOCC1)CCCCC(C(C#N)=NNC1=CC=CC=C1)=O | C17H22N4O2
reactant | hydrazine hydrate | 3.2 mmole | O.NN
reactant | Water | O | H2O
solvent | ether THF | 20 mL | CCOCC.C1CCOC1
product | 5-(4-morpholin-4-ylbutyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine | 270 mg, 51% | N1(CCOCC1)CCCCC=1C(C(=NN1)N)=NNC1=CC=CC=C1 | C17H24N6O
